US07037909B2
4-(5-Amino-[1,3,4]oxadiazol-2-ylmethyl)-phenol
Solid BrCN 6.059 g (57.2 mmol) was added in one portion into ice-cooled slurry of (4-hydroxy-phenyl)-acetic acid hydrazide 8.642 g (52.0 mmol) and KHCO3 6.510 g (65 mmol) in MeOH (100 mL). The mixture was stirred at 0-5° C. for 1 hour, the ice bath allowed to melt and stirred at room temperature overnight (18 hr). The reaction mixture was diluted with water (100 mL), stirred for 1 hour, the precipitate was collected by filtration, washed with water and dried on high vacuum. A second fraction precipitated after concentrating and cooling the supernatants.

reactant | BrCN | 57.2 mmol, 6.059 g | BrC#N | CBrN
reactant | (4-hydroxy-phenyl)-acetic acid hydrazide | 52.0 mmol, 8.642 g | OC1=CC=C(C=C1)CC(=O)NN | C8H10N2O2
solvent | MeOH | 100 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 4-(5-Amino-[1,3,4]oxadiazol-2-ylmethyl)-phenol | NC1=NN=C(O1)CC1=CC=C(C=C1)O | C9H9N3O2
